US05905071
12i N-[2-(N-Carbobenzoxy-glycyl-glycyl-glycyl-glycyl)-amino-2-deoxy-β-D-glucopyranosyl]-N-tetradecyl-dodecanamide.
from N-(2-glycyl-amino-2-deoxy-β-D-glucopyranosyl)-N-tetradecyl-dodecanamide and N-carbobenzoxy-glycyl-glycyl-glycine.

reactant | N-(2-glycyl-amino-2-deoxy-β-D-glucopyranosyl)-N-tetradecyl-dodecanamide | NCC(=O)[C@H]1[C@@](O[C@@H]([C@H]([C@@H]1O)O)CO)(N(C(CCCCCCCCCCC)=O)CCCCCCCCCCCCCC)N | C34H67N3O6
reactant | N-carbobenzoxy-glycyl-glycyl-glycine | C(=O)(OCC1=CC=CC=C1)NCC(=O)NCC(=O)NCC(=O)O | C14H17N3O6
product | N-[2-(N-Carbobenzoxy-glycyl-glycyl-glycyl-glycyl)-amino-2-deoxy-β-D-glucopyranosyl]-N-tetradecyl-dodecanamide | C(=O)(OCC1=CC=CC=C1)NCC(=O)NCC(=O)NCC(=O)NCC(=O)[C@H]1[C@@](O[C@@H]([C@H]([C@@H]1O)O)CO)(N(C(CCCCCCCCCCC)=O)CCCCCCCCCCCCCC)N | C48H82N6O11
